US05616537
Preparation of Methyl 6-[(4,6-Dimethoxypyrimidin-2-yl)oxy]quinolin-5-carboxylate (Compound No. 904)
0.8 g of methyl 6-hydroxyquinolin-5-carboxylate, 0.96 g of 4,6-dimethoxy-2-methylsulfonylpyridine and 0.82 g of potassium carbonate were stirred in 30 ml of N,N-dimethylformamide at 80° C. for 3 hours. The mixture was returned to room temperature, then poured into ice water and extracted with ethyl acetate. The organic layer was washed with water and then dried over anhydrous magnesium sulfate. The residue obtained by concentration under reduced pressure, was crystallized from a solvent mixture of dichloromethane/isopropyl ether to obtain 1.21 g (yield: 89.0%) of the desired compound. mp: 160°-162° C.

reactant | methyl 6-hydroxyquinolin-5-carboxylate | 0.8 g | OC1=C(C=2C=CC=NC2C=C1)C(=O)OC | C11H9NO3
reactant | 4,6-dimethoxy-2-methylsulfonylpyridine | 0.96 g | COC1=CC(=NC(=C1)OC)S(=O)(=O)C | C8H11NO4S
reactant | potassium carbonate | 0.82 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | Methyl 6-[(4,6-Dimethoxypyrimidin-2-yl)oxy]quinolin-5-carboxylate | 1.21 g, yield: 89.0% | COC1=NC(=NC(=C1)OC)OC1=C(C=2C=CC=NC2C=C1)C(=O)OC | C17H15N3O5
